2131-12-29 05:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2131-12-28**] 09:59 PM
   Received 0.2 mg Narcan overnight as a trial.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-12-29**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 68 (60 - 77) bpm
   BP: 105/86(91) {100/37(52) - 128/86(91)} mmHg
   RR: 25 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    430 mL
                                                                    250 mL
   Urine:
                                                                    430 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -430 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 579 (332 - 579) mL
   PS : 10 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 80%
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: 7.40/75/76.[**Numeric Identifier 128**]/47/16
   Ve: 6.8 L/min
   PaO2 / FiO2: 217
   Physical Examination
   General: NAD, sleepy, opens eyes to verbal stimuli, Farsi-speaking
   only
   HEENT: NCAT, anicteric, chronic left sided droop per ED team who have
   taken care of her in the past, no injections, OP clear, MMM
   Neck: no LAD, supple, no jvd
   Heart: RRR no m/r/g
   Lungs: coarse diffuse inspiratory breath sounds on nasal canula, no
   crackles or wheezes.
   Abd: mildly distended, +BS, NT, soft, no mass or organomegaly.
   Ext: trace edema
   Neuro: moving all extremities spontaneously, finger grip and plantar
   flexion [**6-4**] bilaterally, normal muscle tone.
   Psych: sleepy but following commands, oriented to self and hospital,
   not date (baseline per daughter)
   Skin: no rashes
   [**Name (NI) 503**] / Radiology
   225 K/uL
   10.3 g/dL
   201 mg/dL
   1.2 mg/dL
   47 mEq/L
   3.7 mEq/L
   33 mg/dL
   94 mEq/L
   145 mEq/L
   30.2 %
   4.7 K/uL
        [image002.jpg]
                            [**2131-12-29**]  12:21 AM
                            [**2131-12-29**]  03:22 AM
   WBC
   4.7
   Hct
   30.2
   Plt
   225
   Cr
   1.2
   TCO2
   48
   Glucose
   232
   201
   Other [**Year (4 digits) **]: Lactic Acid:0.8 mmol/L, Ca++:9.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   Pt is a 72 yo female with PMHx of CAD, COPD, CHF EF 40% here with
   altered mental status and dyspnea.
   .
   # Dyspnea: Patient
s admission ABG with pCO2 at patient
s baseline, but
   normal pH, indicating a superimposing metabolic alkalosis on top of and
   opposing chronic CO2 retension/respiratory acidosis.  Metabolic
   alkalosis likely secondary to increased Lasix and contraction
   alkalosis.  Her dyspnea is likely a combination of chronic ventillatory
   failure and contraction alkalosis.
   No evidence for CHF (BNP 487), pneumonia (CXR without infiltrates), PE,
   or cardiac ischemia (EKG unchanged).
   - cont. BiPap
   - cont. home doses of advair, tiotropium and albeterol
   - stop prednisone, unlikely to be a COPD exacerbation.
   - hold diuresis as exam and [**Year (4 digits) **] (increased BUN/Cr) are consistent with
   being intravascularly dry
   .
   # Altered mental status/somnolence: Orientation at baseline.  Increased
   somnolence likely related to metabolic abnormalities, hypercarbia in
   the setting of BiPAP non-compliance, and multiple medications including
   oxycodone.  No white count or fever to suggest infection.
   - avoid opiates
   - use BiPAP at night
   - f/u UCx
   - f/u MS exam
   .
   # Neck pain: Likely musculoskeletal vs. DJD changes. [**Month (only) 60**] have nerve
   impingement in the C2 region based on her pain. Normal strength.  CT C
   spine done on [**10-26**] as outpatient (ordered by PCP) which showed
   degenerative changes and limited study due to cervical positioning in
   lateral film. Pt cannot have MRI of her C spine due to her ICD.
   - ultram stopped in the past due to sleepiness.
   - avoiding narcotics per above.
   - tylenol around the clock
   - will consider lidoderm patch
   .
   #CAD:  h/o CABG.  No chest pain or EKG changes.
   - cont ASA, statin, Toprol XL
   .
   # Chronic diastolic CHF: as above.
   .
   # DMII, controlled.  ? diabetic retinopathy.
   - continue home glyburide
   - FS QID with SSI while in house.
   .
   #HTN:  Treated with her metoprolol.
   .
   # Hypothyroidism: Continued levothyroxine
   .
   # Anemia: No evidence of bleed.  Currently at baseline HCT, low 30s.
   .
   # Schizophrenia: continued aripiprazole, depakote, and risperdal
   .
   # FEN: Cardiac heart healthy; replete lytes prn
   .
   # Prophylaxis: sc heparin, PPI
   .
   CODE: Per daughter DNR/[**Name2 (NI) 329**], but has ICD in place and on.
   .
   CONTACT: HCP Daughter [**Name (NI) 5657**] [**Name (NI) 5658**] [**Telephone/Fax (1) 5659**]
   .
   Dispo: Will call-out to floor today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2131-12-28**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition:

2131-12-29 09:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2131-12-28**] 09:59 PM
   -Narcan given with some improvement in respiratory status
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2131-12-29**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 78 (59 - 79) bpm
   BP: 99/59(69) {99/36(49) - 128/86(91)} mmHg
   RR: 25 (15 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
             44 mL
   PO:
             TF:
   IVF:
   44 mL
   Blood products:
   Total out:
                                                                    380 mL
                                                                    470 mL
   Urine:
                                                                    380 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -380 mL
                                                                   -426 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 579 (332 - 579) mL
   PS : 10 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 80%
   PIP: 17 cmH2O
   SpO2: 93%
   ABG: 7.40/75/76.[**Numeric Identifier 128**]/47/16
   Ve: 6.8 L/min
   PaO2 / FiO2: 95
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): Place, Person, Movement: Not assessed, Tone: Not
   assessed, Improved altertness this morning, reasonable maintenance of
   interactiveness with prompting
   Labs / Radiology
   10.3 g/dL
   225 K/uL
   201 mg/dL
   1.2 mg/dL
   47 mEq/L
   3.7 mEq/L
   33 mg/dL
   94 mEq/L
   145 mEq/L
   30.2 %
   4.7 K/uL
        [image002.jpg]
                            [**2131-12-29**]  12:21 AM
                            [**2131-12-29**]  03:22 AM
   WBC
   4.7
   Hct
   30.2
   Plt
   225
   Cr
   1.2
   TCO2
   48
   Glucose
   232
   201
   Other labs: Lactic Acid:0.8 mmol/L, Ca++:9.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   72 yo female with h/o CHF/COPD/CAD who is admitted in the setting of
   recent worsening of orthopnea and increased diuretic dosing at home.
   She is admitted with respiratory failure and requirementfor BIPAP in
   the setting of known obstructive lung disease and narcotic use for next
   pain.  She has a profound elevation of HCO3-suggesting signficant
   chronic compromise of ventilation. She in response to intervention has
   had improvement in alertness and responsiveness.  Initial ABG was
   7.40/75/76 which represents signficiant combination of respiratory
   acidosis and metabolic alkalosis.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])--At this time her exam does
   not appear to be one of severe volume overload based upon exam at this
   time--with minimal peripheral edema despite some modest suggestion of
   pulmonary edema on initial CXR.  We do not have a story of acute change
   over time and do not have a clear picture of fever/phlegm arguing for
   pneumonia, she has no evidence of acute congestive heart failure, she
   has background combined obstructive and restrictive ventilatory defect
   which is likely at play.
   -Pred 60mg/d-->Will D/C with PCO2 at baseline, decreased lungs with
   good air movement.
   -Albuterol/Atrovent
   -Advair continuing
   -Titatropium
   -WIll hold further diuresis
   -Return to O2 and BIPAP as at baseline
   -Congestive Heart Failure-
   -Continue with B-blocker
   -Return to baseline diuretic dosing
 ALTERED MENTAL STATUS (NOT DELIRIUM)--Likely a combination of chronic
   hypercarbia, new metabolic alkalosis and narcotic dosing for pain.
   This is in the setting of background schizophrenia.
   -Hold Narcotics
   -Zoloft
   -Dilantin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2131-12-28**] 10:00 PM
   18 Gauge - [**2131-12-29**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition :ICU
   Total time spent: 35 minutes

2131-12-30 05:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2131-12-30**] 01:03 AM
   large amt ectopy, irregular supraventricular rhythm w/ new TWI in I,
   II, aVF and V4 while pt. asleep.
   Potassium repleted
   Was desatting on Bipap while asleep, RT increased Ipap and Epap and she
   responded well.
   Yelling in Farsi, per daughter this is normal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-12-30**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-12-30**] 05:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 63 (50 - 79) bpm
   BP: 110/35(55) {90/28(45) - 126/74(84)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 86%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    743 mL
                                                                     54 mL
   PO:
                                                                    490 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    253 mL
                                                                     24 mL
   Blood products:
   Total out:
                                                                  1,123 mL
                                                                    173 mL
   Urine:
                                                                  1,123 mL
                                                                    173 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -380 mL
                                                                   -119 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 86%
   ABG: ///45/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   206 K/uL
   9.5 g/dL
   115 mg/dL
   1.1 mg/dL
   45 mEq/L
   3.4 mEq/L
   37 mg/dL
   95 mEq/L
   143 mEq/L
   27.3 %
   7.3 K/uL
        [image002.jpg]
                            [**2131-12-29**]  12:21 AM
                            [**2131-12-29**]  03:22 AM
                            [**2131-12-29**]  02:44 PM
                            [**2131-12-29**]  05:00 PM
                            [**2131-12-29**]  06:00 PM
                            [**2131-12-29**]  07:00 PM
                            [**2131-12-30**]  01:00 AM
   WBC
   4.7
   7.3
   Hct
   30.2
   27.3
   Plt
   225
   206
   Cr
   1.2
   1.2
   1.1
   TropT
   <0.01
   TCO2
   48
   Glucose
   232
   201
   431
   370
   296
   306
   115
   Other labs: CK / CKMB / Troponin-T:29//<0.01, D-dimer:1023 ng/mL,
   Lactic Acid:0.8 mmol/L, Ca++:9.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Pt is a 72 yo female with PMHx of CAD, COPD, CHF EF 40% here with
   altered mental status and dyspnea.
   .
   # Dyspnea: Patient
s admission ABG with pCO2 at patient
s baseline, but
   normal pH, indicating a superimposing metabolic alkalosis on top of and
   opposing chronic CO2 retension/respiratory acidosis.  Metabolic
   alkalosis likely secondary to increased Lasix and contraction
   alkalosis.  Her dyspnea is likely a combination of chronic ventillatory
   failure and contraction alkalosis.
   No evidence for CHF (BNP 487), pneumonia (CXR without infiltrates), PE,
   or cardiac ischemia (EKG unchanged).
   - cont. BiPap
   - cont. home doses of advair, tiotropium and albeterol
   - stop prednisone, unlikely to be a COPD exacerbation.
   - hold diuresis as exam and labs (increased BUN/Cr) are consistent with
   being intravascularly dry
   .
   # Altered mental status/somnolence: Orientation at baseline.  Increased
   somnolence likely related to metabolic abnormalities, hypercarbia in
   the setting of BiPAP non-compliance, and multiple medications including
   oxycodone.  No white count or fever to suggest infection.
   - avoid opiates
   - use BiPAP at night
   - f/u UCx
   - f/u MS exam
   .
   # Neck pain: Likely musculoskeletal vs. DJD changes. [**Month (only) 60**] have nerve
   impingement in the C2 region based on her pain. Normal strength.  CT C
   spine done on [**10-26**] as outpatient (ordered by PCP) which showed
   degenerative changes and limited study due to cervical positioning in
   lateral film. Pt cannot have MRI of her C spine due to her ICD.
   - ultram stopped in the past due to sleepiness.
   - avoiding narcotics per above.
   - tylenol around the clock
   - will consider lidoderm patch
   .
   #CAD:  h/o CABG.  No chest pain or EKG changes.
   - cont ASA, statin, Toprol XL
   .
   # Chronic diastolic CHF: as above.
   .
   # DMII, controlled.  ? diabetic retinopathy.
   - continue home glyburide
   - FS QID with SSI while in house.
   .
   #HTN:  Treated with her metoprolol.
   .
   # Hypothyroidism: Continued levothyroxine
   .
   # Anemia: No evidence of bleed.  Currently at baseline HCT, low 30s.
   .
   # Schizophrenia: continued aripiprazole, depakote, and risperdal
   .
   # FEN: Cardiac heart healthy; replete lytes prn
   .
   # Prophylaxis: sc heparin, PPI
   .
   CODE: Per daughter DNR/[**Name2 (NI) 329**], but has ICD in place and on.
   .
   CONTACT: HCP Daughter [**Name (NI) 5657**] [**Name (NI) 5658**] [**Telephone/Fax (1) 5659**]
   .
   Dispo: Will call-out to floor today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2131-12-28**] 10:00 PM
   18 Gauge - [**2131-12-29**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition:

2131-12-30 09:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2131-12-30**] 01:03 AM
   large amt ectopy
   -BIPAP titrated up with resultant improvement in SaO2 to 93% during
   sleep
   -Increased ectopy across the night and with bradycardia to 40 with
   pacer started.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-12-30**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2131-12-30**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 66 (50 - 79) bpm
   BP: 106/77(84) {90/28(45) - 126/77(84)} mmHg
   RR: 20 (17 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    743 mL
                                                                    554 mL
   PO:
                                                                    490 mL
                                                                    530 mL
   TF:
   IVF:
                                                                    253 mL
                                                                     24 mL
   Blood products:
   Total out:
                                                                  1,123 mL
                                                                    318 mL
   Urine:
                                                                  1,123 mL
                                                                    318 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -380 mL
                                                                    236 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///45/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : Left > Right, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, Examination in
   English
patient able to lift LE bilaterally with equal strength and
   upper extremities with equal strength
no evidence of CN abnormalities
   on exam
   Labs / Radiology
   9.5 g/dL
   206 K/uL
   115 mg/dL
   1.1 mg/dL
   45 mEq/L
   4.3 mEq/L
   37 mg/dL
   95 mEq/L
   143 mEq/L
   29.5 %
   7.3 K/uL
        [image002.jpg]
                            [**2131-12-29**]  12:21 AM
                            [**2131-12-29**]  03:22 AM
                            [**2131-12-29**]  02:44 PM
                            [**2131-12-29**]  05:00 PM
                            [**2131-12-29**]  06:00 PM
                            [**2131-12-29**]  07:00 PM
                            [**2131-12-30**]  01:00 AM
                            [**2131-12-30**]  07:55 AM
   WBC
   4.7
   7.3
   Hct
   30.2
   27.3
   29.5
   Plt
   225
   206
   Cr
   1.2
   1.2
   1.1
   TropT
   <0.01
   TCO2
   48
   Glucose
   232
   201
   431
   370
   296
   306
   115
   Other labs: CK / CKMB / Troponin-T:29//<0.01, D-dimer:1023 ng/mL,
   Lactic Acid:0.8 mmol/L, Ca++:9.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   ECG: Ectopic atrial rhythm noted
   Assessment and Plan
   72 yo female with h/o COPD, neck pain on narcotics for control and CHF
   now admit with increasing lethargy at home and worsening dyspnea.  She
   had mixed respiratory acidosis and metabolic alkalosis at admission in
   the setting of increasing lasix dosing at home.  Ovenright patient with
   significant arrhythmia and requirement for up-titration of BIPAP
   overnight with persistent and significant hypoxemia noted across the
   night.  This likely represents a challenging combination of chronic
   obstructive lung disease, congestive heart failure and restriction in
   the setting of obesity which with sleep onset may all conspire to
   compromise venilatory function particularly during sleep requiring
   up-titration of BIPAP therapy.
   What appears to be likely is a combination of chronic ventilatory
   failure and chronic heart failure both needing ongoing stabilization of
   ventilatory failure and congestive heart failure/atrial arrhythmia.
   1)Respiratory Failure-
   -Advair/Spiriva
   -Will up-titrate BIPAP to 16/12 for use with 4 lpm O2
   -This is in the setting of empiric titration of BIPAP in ICU with
   oxygen saturations stabilized at 93% during brief period of sleep last
   night.
   -Would continue with BIPAP during any period of sleep
   -Steroids D/C
d without consequence
   -Follow up with sleep clinic and outpatient sleep study to truly
   optimize treatment over long term
   -Would favor full PFT
s and lung volumes in follow up given poor
   patient effort and suggestion of restrictive ventilatory defect.
   2)Congestive Heart Failure-This is with reasonable stability on recent
   ECHO and has AICD placed at this time with pacer capacity.
   -Digoxin
   -ASA
   -ECG without significant changes
   -Continue with telemetry while on floor
   -
   3)Neck Pain-
   -Lidocaine patch
   -Tylenol to continue
   -Neuro consult to evaluate for strategies for management.
   -Consider soft collar in addition to neurontin
 .H/O PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACUTE PAIN
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2131-12-28**] 10:00 PM
   18 Gauge - [**2131-12-29**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition :ICU
consider transfer to floor with continued stability
   and stable BIPAP settings.
   Total time spent: 35 minutes

2131-12-31 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2131-12-30**] 08:30 AM
   -Continued neck and head pain throughout day, agitation
   - Started Ibuprofen TID, neurotin, zyprexa
   -Increased ISS
   -Given PO lasix 20mg x1 for desat
   -pt repeatally desat to mid 80s throughout day and night (moaning /
   singing throughout).
   - On bipap overnight titrating dose, pt repeatally breaks seal of bipap
   with hand and desats
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-12-30**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-12-31**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 60 (49 - 74) bpm
   BP: 122/45(65) {92/25(46) - 127/77(84)} mmHg
   RR: 24 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,094 mL
                  PO:
                                                                  1,070 mL
                  TF:
   IVF:
                                                                     24 mL
   Blood products:
   Total out:
                                                                  1,363 mL
                                                                    210 mL
   Urine:
                                                                  1,363 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -269 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 100%
   ABG: ///42/
   Physical Examination
   A/Ox2
   HEENT: Tender in paraspinal muscles of neck, nontender scalp, No JVD
   Lungs: Crackles in L lung base>R, breathing comfortably
   Heart: RRR, II/VI systolic murmur
   Abd: Soft, NT, ND, BS+
   EXT: No peripheral edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   191 K/uL
   10.2 g/dL
   77 mg/dL
   1.1 mg/dL
   42 mEq/L
   4.3 mEq/L
   33 mg/dL
   96 mEq/L
   142 mEq/L
   29.6 %
   8.1 K/uL
        [image002.jpg]
                            [**2131-12-29**]  12:21 AM
                            [**2131-12-29**]  03:22 AM
                            [**2131-12-29**]  02:44 PM
                            [**2131-12-29**]  05:00 PM
                            [**2131-12-29**]  06:00 PM
                            [**2131-12-29**]  07:00 PM
                            [**2131-12-30**]  01:00 AM
                            [**2131-12-30**]  07:55 AM
                             [**2131-12-31**]  04:00 AM
   WBC
   4.7
   7.3
   8.1
   Hct
   30.2
   27.3
   29.5
   29.6
   Plt
   [**Telephone/Fax (3) 6770**]
   Cr
   1.2
   1.2
   1.1
   1.1
   TropT
   <0.01
   TCO2
   48
   Glucose
   232
   201
   431
   370
   296
   306
   115
   77
   Other labs: PT / PTT / INR:12.3/23.1/1.0, CK / CKMB /
   Troponin-T:29//<0.01, D-dimer:1023 ng/mL, Lactic Acid:0.8 mmol/L,
   Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Pt is a 72 yo female with PMHx of CAD, COPD, CHF EF 40% here with
   altered mental status and dyspnea.
   .
   # Dyspnea: No objective e/o worsening, ABG is baseline, SPO2 also
   appears to be baseline. Pt. does not appear hypervolemic and is not
   having productive cough so doubt CHF or COPD exacerbation. Likely that
   her previous Bipap settings were inadequate.
   -          Use new Bipap settings
   -          Wean O2 to keep SPO2 between 88-92
   -          Continue home meds
   .
   # Altered mental status/somnolence: Orientation at baseline.  Appears
   much improved since stopping oxycodone.
   - Hold oxycodone
   .
   # Neck pain/Headache: Likely [**3-3**] arthritis/nerve impingement. Responds
   well to tylenol
   -          Neuro consult for pain management
   -          Standing Tylenol
   -          Consider NSAIDs but at risk for causing CHF exacerbation
   .
   #CAD:  h/o CABG.  Has been having
Heart pain
 at home and taking
   nitro.
   - Consider outpt stress
   - cont ASA, statin, Toprol XL
   .
   # Chronic diastolic CHF: Euvolemic as above.
   .
   # DMII: Required insulin drip o/n for BG >400 repeatedly. Now well
   under control after stopping steroids.  ? diabetic retinopathy.
   - continue home glyburide
   - FS QID with SSI while in house.
   .
   #HTN:  Treated with her metoprolol.
   .
   # Hypothyroidism: Continued levothyroxine
   .
   # Anemia: No evidence of bleed.  Currently at baseline HCT, low 30s.
   .
   # Schizophrenia: continued aripiprazole, depakote, and risperdal
   .
   # FEN: Cardiac heart healthy; replete lytes prn
   .
   # Prophylaxis: sc heparin, PPI
   .
   CODE: Per daughter DNR/[**Name2 (NI) 329**], but has ICD in place and on.
   .
   CONTACT: HCP Daughter [**Name (NI) 5657**] [**Name (NI) 5658**] [**Telephone/Fax (1) 5659**]
   .
   Dispo: Will call-out to floor today.
   Addendum:
   Called neurology for neck pain, management of possible neuropathic pain
   - suggest starting neurontin if suspicious for neuropathic pain.
   However suggest minimal dose of 300mg TID. If pt not sedated with that
   regimen may increase the following day to 600mg TID.  Lyrica may be
   slightly less sedating but must be slowly titrated over weeks.
   - If neurotin proves too sedationg consider Lyrica or Trileptal.
   -Will start with small test dose  of neurotinin, 100mg qhs to monitor
   for sedating effects.
   - If further questions with management will need to formally consult
   neuro.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2131-12-28**] 10:00 PM
   18 Gauge - [**2131-12-29**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition:

2131-12-31 10:50:00 Physician Attending Progress Note
Chief Complaint: respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 yo women with severe COPD, CHF, admitted with acute on chronic
   respiratory failure.
   24 Hour Events:
 EKG - At [**2131-12-30**] 08:30 AM
   Has been complaining of neck and head pain.  TX with advil and
   neurontin.
   Has had intermittent desaturations.  Taking bipap off periodically.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-12-31**] 12:00 AM
   Other medications:
   lipitor
   resperidone
   sertraline
   valproate
   lopressor
   adiprazole
   Calcium
   levoxyl
   protonix
   SSI
   glyburide
   digoxin
   asa
   medroxyprogesterone
   colace
   neurontin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Psychiatric / Sleep: Daytime somnolence
   Flowsheet Data as of  [**2131-12-31**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 72 (49 - 78) bpm
   BP: 107/53(66) {90/25(46) - 127/97(94)} mmHg
   RR: 22 (15 - 29) insp/min
   SpO2: 85%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,094 mL
                                                                    250 mL
   PO:
                                                                  1,070 mL
                                                                    250 mL
   TF:
   IVF:
                                                                     24 mL
   Blood products:
   Total out:
                                                                  1,363 mL
                                                                    375 mL
   Urine:
                                                                  1,363 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -269 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 85%
   ABG: ///42/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, sleepy
   Labs / Radiology
   10.2 g/dL
   191 K/uL
   77 mg/dL
   1.1 mg/dL
   42 mEq/L
   4.3 mEq/L
   33 mg/dL
   96 mEq/L
   142 mEq/L
   29.6 %
   8.1 K/uL
        [image002.jpg]
                            [**2131-12-29**]  12:21 AM
                            [**2131-12-29**]  03:22 AM
                            [**2131-12-29**]  02:44 PM
                            [**2131-12-29**]  05:00 PM
                            [**2131-12-29**]  06:00 PM
                            [**2131-12-29**]  07:00 PM
                            [**2131-12-30**]  01:00 AM
                            [**2131-12-30**]  07:55 AM
                             [**2131-12-31**]  04:00 AM
   WBC
   4.7
   7.3
   8.1
   Hct
   30.2
   27.3
   29.5
   29.6
   Plt
   [**Telephone/Fax (3) 6770**]
   Cr
   1.2
   1.2
   1.1
   1.1
   TropT
   <0.01
   TCO2
   48
   Glucose
   232
   201
   431
   370
   296
   306
   115
   77
   Other labs: PT / PTT / INR:12.3/23.1/1.0, CK / CKMB /
   Troponin-T:29//<0.01, D-dimer:1023 ng/mL, Lactic Acid:0.8 mmol/L,
   Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE):  Contineu ASA,
   Toprol.  No need for dig.  as EF is preserved and not in AF.
 .H/O PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACUTE PAIN:  Still complaining of severe headaches.  Adding
   neurontin.  Continue advil, lido patch.   Likely OSA is playing a role
   in chronic headaches.
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Continue BIPAP for
   obesity hypoventilation when sleeping.
 ALTERED MENTAL STATUS (NOT DELIRIUM):  MS [**First Name (Titles) 3046**]
[**Last Name (Titles) **]ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2131-12-28**] 10:00 PM
   18 Gauge - [**2131-12-29**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes